US07145009B2
Methyl 6-chloro-1-(cyanomethyl)-indole-2-carboxylate
To a stirred solution of methyl 6-chloroindole-2-carboxylate (9.8 g, 46.7 mmol) (D. Knittel, Synthesis, 1985, 2, 186–188) in DMF (80 mL) under Ar at ambient temperature was added sodium hydride (60%; 2.80 g, 70 mmol) portionwise over 10 min. After 30 min, chloroacetonitrile (5.9 mL, 93.2 mmol) was added dropwise and the resultant mixture was heated at 75° C. (bath temp.) for 45 min; then allowed to cool. The reaction mixture was poured onto ice (500 mL) and the solid product was filtered, washed with ice-cold water (100 mL), and triturated with refluxing ethanol (150 mL). After allowing to cool to ambient temperature, then cooling in ice, the solid product was filtered-off and washed with ice-cold ethanol (50 mL) to afford the title compound (9.49 g, 82%) as a light grey solid: mp 177–8° C.; IR νmax (Nujol)/cm−1; 3094, 2955, 2925, 2854, 1713, 1613, 1568, 1527, 1519, 1448, 1421, 1398, 1378, 1336, 1306, 1260, 1150, 1108, 1060, 943, 908, 834, 802, 761, 737, 682, 618, 597, 518 and 478; NMR δH (400 MHz, DMSO-d6) 3.95 (3H, s), 5.56 (2H, s), 7.22 (1H, dd, J 8.5, 2 Hz), 7.34 (1H, d, J 1 Hz), 7.43 (1H, br s) and 7.62 (1H, d, J 8.5 Hz).

reactant | methyl 6-chloroindole-2-carboxylate | 46.7 mmol, 9.8 g | ClC1=CC=C2C=C(NC2=C1)C(=O)OC | C10H8ClNO2
reactant | sodium hydride | 70 mmol, 2.80 g | [H-].[Na+]
reactant | chloroacetonitrile | 93.2 mmol, 5.9 mL | ClCC#N | C2H2ClN
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | Methyl 6-chloro-1-(cyanomethyl)-indole-2-carboxylate | 9.49 g, 82% | ClC1=CC=C2C=C(N(C2=C1)CC#N)C(=O)OC | C12H9ClN2O2
